US07709518B2
To a solution of 400 mg (1.3 mmol) of 3-(4-Nitro-phenyl)-2-trifluoromethyl-indolizine in 12 mL MeOH was added 200 mg (10%) Pd/C. The solution was allowed to stir under a H2 atmosphere for 24 hrs then filtered through celite and concentrated in vacuo. The resulting oil was purified by silica gel chromatography Hexane:EtOAc (gradient 9:1-1:1) to yield 300 mg (1.1 mmol, 85%) of 4-(2-Trifluoromethyl-5,6,7,8-tetrahydro-indolizin-3-yl)-phenylamine.

reactant | 3-(4-Nitro-phenyl)-2-trifluoromethyl-indolizine | 1.3 mmol, 400 mg | [N+](=O)([O-])C1=CC=C(C=C1)C1=C(C=C2C=CC=CN12)C(F)(F)F | C15H9F3N2O2
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | MeOH | 12 mL | CO | CH4O
catalyst | Pd/C | 200 mg | [Pd] | Pd
product | 4-(2-Trifluoromethyl-5,6,7,8-tetrahydro-indolizin-3-yl)-phenylamine | 1.1 mmol, 300 mg, 85% | FC(C=1C=C2CCCCN2C1C1=CC=C(C=C1)N)(F)F | C15H15F3N2
